US03971772
A solution of 0.80 g of 9-fluoro-16α-(2-hydroxyethoxy)-11β,17,21-trihydroxypregn-4-ene-3,20-dione, 21-acetate in 10 ml of pyridine is stirred with 0.5 ml of methanesulfonyl chloride for 90 minutes at 0°C under nitrogen. The solution is poured into cold 5% hydrochloric acid and extracted with chloroform. The chloroform extract is dried and evaporated to give an oil which is chromatographed on a 20 g -- silica gel column. Elution with chloroform gives 521 mg of TLC pure 9-fluoro-16α-(2-mesyloxyethoxy)-11β,17,21-trihydroxypregn-4-ene-3,20-dione, 21-acetate.

reactant | 9-fluoro-16α-(2-hydroxyethoxy)-11β,17,21-trihydroxypregn-4-ene-3,20-dione | 0.80 g | F[C@@]12[C@]3(CCC(C=C3CC[C@H]1[C@@H]1C[C@H]([C@](C(CO)=O)([C@]1(C[C@@H]2O)C)O)OCCO)=O)C | C23H33FO7
reactant | methanesulfonyl chloride | 0.5 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 9-fluoro-16α-(2-mesyloxyethoxy)-11β,17,21-trihydroxypregn-4-ene-3,20-dione | F[C@@]12[C@]3(CCC(C=C3CC[C@H]1[C@@H]1C[C@H]([C@](C(CO)=O)([C@]1(C[C@@H]2O)C)O)OCCOS(=O)(=O)C)=O)C | C24H35FO9S
